US06319928B1
8.41 g (21 mmoles) of 2-thioxanthine are refluxed with 5.60 (25.2 mmoles) of phosphorus pentasulfide in 80 ml of pyridine. After 5.5 hours 27.7 ml (55.4 mmoles) of 2N NaOH were added at 5-10° C. The solid was filtered off and washed with pyridine. The filtrate was evaporated in vacuo to dryness, the residue is suspended in 200 ml of water with little tetrahydrofuran (THF) for crystllization, the suspension is concentrated and the solid at pH 8 collected and washed. Redissolution in 100 ml of 0.5 N NaOH, treatment with charcoal (20%), filtration and acidification to pH 6 yielded the solid crude dithioxanthine 7.84 g (89.6%). Crystallization from chloroform and suspension in hot methanol gave 5.31 g (60.7%) of dithioxanthine with mp 241-3° C. The mother liquors were combined (2.36 g) and filtered with chloroform through 60 g of silicagel in a column: 1.73 g (19.8%) were isolated as a second crop.

reactant | 2-thioxanthine | 21 mmoles, 8.41 g | N1C(=S)NC=2N=CNC2C1=O | C5H4N4OS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | NaOH | 55.4 mmoles, 2N, 27.7 ml | [OH-].[Na+]
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | dithioxanthine | 7.84 g, 89.6% | N1C(=S)NC=2N=CNC2C1=S | C5H4N4S2
